US05364968
Preparation of o-aminophenyl cyclopropyl ketone
A mixture of o-nitrophenyl cyclopropyl ketone (100 mg, 0.52 mmole) and a catalytic amount of 10% Pd on carbon in methanol is stirred under hydrogen at atmospheric pressure until reaction is complete by TLC. The reaction mixture is filtered and the filtrate is concentrated in vacuo to give a bright yellow oil. The oil is flash chromatographed to give the title product as an off-white crystalline solid, 72 mg (85% yield), identified by 1HNMR.

reactant | o-nitrophenyl cyclopropyl ketone | 0.52 mmole, 100 mg | C1(CC1)C(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H9NO3
solvent | methanol | CO | CH4O
catalyst | Pd on carbon | [Pd] | Pd
product | o-aminophenyl cyclopropyl ketone | 85% yield | C1(CC1)C(=O)C1=C(C=CC=C1)N | C10H11NO
